US06169107A
In a nitrogen flow 0.56 g (2.93 mmol) of methyl 1-hydroxy-2-indolecarboxylate was added to a suspension of 0.12 g (2.93 mmol) of 60% sodium hydride in 20 ml of tetrahydrofuran at room temperature. After it was confirmed that the reaction mixture became transparent, 0.83 g (5.86 mmol) of methyl iodide was added to the reaction mixture. The mixture was then refluxed for 2 hours. After cooling to room temperature, the reaction mixture was poured onto ice water followed by extraction three times with ethyl acetate. The combined extracts were washed with saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 0.46 g (76.5%) of methyl 1-methoxy-2-indolecarboxylate.

reactant | methyl 1-hydroxy-2-indolecarboxylate | 2.93 mmol, 0.56 g | ON1C(=CC2=CC=CC=C12)C(=O)OC | C10H9NO3
reactant | sodium hydride | 2.93 mmol, 0.12 g | [H-].[Na+]
reactant | methyl iodide | 5.86 mmol, 0.83 g | CI | CH3I
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl 1-methoxy-2-indolecarboxylate | 0.46 g, 76.5% | CON1C(=CC2=CC=CC=C12)C(=O)OC | C11H11NO3
